US09120772B2
6.08 g (22 mmol, 1.1 eq) of diphenylphosphoryl azide were added dropwise to a solution of 4.43 g (20 mmol, 1 eq) of (5-methylfuran-2-yl)-(tetrahydropyran-4-yl)methanol at 89% in 60 ml of toluene. The reaction medium was cooled to 0° C. and then 3.3 ml (22 mmol, 1.1 eq) of 1,8-diazabicyclo[5.4.0]undec-7-ene were added dropwise. The reaction medium was stirred at ambient temperature for 22 hours. The reaction medium was separated by settling out and the organic phase was washed with water and then with 1 N hydrochloric acid, dried over magnesium sulfate, filtered and evaporated. The residue was chromatographed on silica gel (column Analogix SF40-240 g, Spot II) eluted with heptane/ethyl acetate (95/5). 3.09 g of 4-[azido-(5-methylfuran-2-yl)methyl]tetrahydropyran were obtained. Yield=70%.

reactant | diphenylphosphoryl azide | 22 mmol, 6.08 g, 1.1 eq | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | (5-methylfuran-2-yl)-(tetrahydropyran-4-yl)methanol | 20 mmol, 4.43 g, 1 eq | CC1=CC=C(O1)C(O)C1CCOCC1 | C11H16O3
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 22 mmol, 3.3 ml, 1.1 eq | N12CCCCCC2=NCCC1 | C9H16N2
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[azido-(5-methylfuran-2-yl)methyl]tetrahydropyran | 3.09 g, Yield=70% | N(=[N+]=[N-])C(C1CCOCC1)C=1OC(=CC1)C | C11H15N3O2
